US08124768B2
Preparation 12C: (3-(4-(2-(Benzhydrylamino)-3-chloropyridin-4-yloxy)-3-fluorophenylcarbamoyl)-5-(4-fluorophenyl)-4-oxopyridin-1(4H)-yl)methyl piperidine-4-carboxylate
To a solution of 4-(3-(4-(2-(benzhydrylamino)-3-chloropyridin-4-yloxy)-3-fluorophenylcarbamoyl)-5-(4-fluorophenyl)-4-oxopyridin-1(4H)-yl)methyl 1-tert-butyl piperidine-1,4-dicarboxylate (135 mg, 0.154 mmol) in DCM (5 mL) at rt, was added HCl (4 N in dioxane, 1 mL). The reaction mixture was stirred at rt for 3 h. The solvents were removed in vacuo and the resulting residue was purified by preparative —HPLC to give the desired product (128 mg) as a white solid. MS (ESI+) m/z 776 (M+H)+.

reactant | 4-(3-(4-(2-(benzhydrylamino)-3-chloropyridin-4-yloxy)-3-fluorophenylcarbamoyl)-5-(4-fluorophenyl)-4-oxopyridin-1(4H)-yl)methyl 1-tert-butyl piperidine-1,4-dicarboxylate | 0.154 mmol, 135 mg | N1(CCC(CC1)C(=O)OCN1C=C(C(C(=C1)C1=CC=C(C=C1)F)=O)C(NC1=CC(=C(C=C1)OC1=C(C(=NC=C1)NC(C1=CC=CC=C1)C1=CC=CC=C1)Cl)F)=O)C(=O)OC(C)(C)C | C48H44ClF2N5O7
reactant | HCl | 4 N, 1 mL | Cl | ClH
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (3-(4-(2-(Benzhydrylamino)-3-chloropyridin-4-yloxy)-3-fluorophenylcarbamoyl)-5-(4-fluorophenyl)-4-oxopyridin-1(4H)-yl)methyl piperidine-4-carboxylate | 128 mg | N1CCC(CC1)C(=O)OCN1C=C(C(C(=C1)C1=CC=C(C=C1)F)=O)C(NC1=CC(=C(C=C1)OC1=C(C(=NC=C1)NC(C1=CC=CC=C1)C1=CC=CC=C1)Cl)F)=O | C43H36ClF2N5O5
